US07354932B2
Compound 17: Preparation of N1-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine (Hydrobromide Salt)
To a solution of (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (0.169 g, 0.451 mmol) in CH3CN (5 mL) was added N,N-diisopropylethylamine (0.25 mL, 1.44 mmol) followed by 4-bromobutyronitrile (0.10 mL, 1.01 mmol). The resultant mixture was heated to 80° C. for 5 d then cooled to room temperature. The mixture was concentrated and the residue was partitioned between CH2Cl2 (20 mL) and brine (10 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by column chromatography on silica gel (30:1:1 CH2Cl2—CH3OH—NH4OH) provided 108 mg (54%) of a yellow foam.

reactant | (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.451 mmol, 0.169 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | N,N-diisopropylethylamine | 1.44 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromobutyronitrile | 1.01 mmol, 0.10 mL | BrCCCC#N | C4H6BrN
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | N1-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 108 mg, 54% | N1C(=NC2=C1C=CC=C2)CN(CCCCN)C2CCCC=1C=CC=NC21 | C21H27N5
